US08071774B2
b) 2-Methyl-propane-2-sulphinic acid [6,7-dihydro-5H-imidazo[1,5-a]pyridin-(8E)-ylidene]-amide
A mixture of 1 mmol of 6,7-dihydro-5H-imidazo[1,5-a]pyridine-8-one [426219-51-4] and 1.2 mmol of 2-methyl-propan-2-sulphinic acid amid is treated dropwise with 0.35 ml of titanium-tetra-isopropoxide. The reaction mixture is stirred at room temperature for 36 hours, then poured into 5 ml of brine and 10 ml of ethyl acetate and stirred vigorously for 10 minutes. The reaction mixture is filtered over Hyflo and the filtrate is evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridine-8-one | 1 mmol | C=1N=CN2C1C(CCC2)=O | C7H8N2O
reactant | 2-methyl-propan-2-sulphinic acid amid | 1.2 mmol | CC(C)(C)S(=O)N | C4H11NOS
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | 5 ml | [Cl-].[Na+].O
catalyst | titanium-tetra-isopropoxide | 0.35 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 2-Methyl-propane-2-sulphinic acid [6,7-dihydro-5H-imidazo[1,5-a]pyridin-(8E)-ylidene]-amide | C=1N=CN2C1\C(\CCC2)=N\S(=O)C(C)(C)C | C11H17N3OS
